US07968570B2
A mixture of 2,3-dihydro-isoindol-1-one (0.066 g, 0.5 mmol,), 2-bromomethyl-benzonitrile (0.117 g, 0.6 mmol), Cs2CO3 (0.408 g, 1.25 mmol), and 18-crown-6 (0.013 g, 0.05 mmol) in acetone (3 mL) was stirred at 70° C. for 16 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 2-(1-oxo-1,3-dihydro-isoindol-2-ylmethyl)-benzonitrile (0.055 g, 44%). 1H NMR (300 MHz, CDCl3): δ (ppm) 4.22 (s, 2H), 5.08 (s, 2H), 7.28-7.70 (m, 7H), 7.92 (d, 1H).

reactant | 2,3-dihydro-isoindol-1-one | 0.5 mmol, 0.066 g | C1(NCC2=CC=CC=C12)=O | C8H7NO
reactant | 2-bromomethyl-benzonitrile | 0.6 mmol, 0.117 g | BrCC1=C(C#N)C=CC=C1 | C8H6BrN
reactant | Cs2CO3 | 1.25 mmol, 0.408 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 18-crown-6 | 0.05 mmol, 0.013 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | acetone | 3 mL | CC(=O)C | C3H6O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(1-oxo-1,3-dihydro-isoindol-2-ylmethyl)-benzonitrile | 0.055 g, 44% | O=C1N(CC2=CC=CC=C12)CC1=C(C#N)C=CC=C1 | C16H12N2O
